US08076481B2
It will be appreciated by those skilled in the art that the sequence of steps in the processes described above may be performed in a different order for example 3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoic acid may be reacted with 5-methylpyrazine-2-amine to give (S)-3-hydroxy-5-(1-methoxypropan-2-yloxy)-N-(5-methylpyrazin-2-yl)benzamide, for example as described below. The conversion of (S)-3-hydroxy-5-(1-methoxypropan-2-yloxy)-N-(5-methylpyrazin-2-yl)benzamide into 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(5-methylpyrazin-2-yl)benzamide may be carried out as described in WO2007/007041.

reactant | 3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoic acid | OC=1C=C(C(=O)O)C=C(C1)O[C@H](COC)C | C11H14O5
reactant | 5-methylpyrazine-2-amine | CC=1N=CC(=NC1)N | C5H7N3
product | (S)-3-hydroxy-5-(1-methoxypropan-2-yloxy)-N-(5-methylpyrazin-2-yl)benzamide | OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](COC)C | C16H19N3O4
